US09388161B2
A screw-cap vial equipped with a magnetic stir bar was charged with rac-1-(6-bromo-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.024 g, 0.067 mmol), 4-(methylsulfonyl)phenylboronic acid (0.020 g, 0.100 mmol), 1,4-dioxane (0.67 mL), 1.0 M aqueous sodium bicarbonate (0.200 mL, 0.200 mmol), and bis(triphenylphosphine)palladium(II) chloride (4.7 mg, 6.7 μmol). The vial was flushed with nitrogen and then capped. The reaction mixture was then heated to 80° C. for 3 h and then cooled to room temperature. The reaction mixture was diluted with 5% aqueous sodium chloride solution (0.5 mL) and ethyl acetate. The layers were separated, and the aqueous layer was extracted with ethyl acetate. The combined extracts were concentrated under reduced pressure to afford a dark brown residue, which was then purified by preparative thin layer chromatography (1×1000 micron plate; eluting with 3:2 ethyl acetate-hexanes). The major band was isolated (26 mg) and further purified by preparative HPLC to afford rac-1-(2-methyl-6-(4-(methylsulfonyl)phenyl)-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone. 1H NMR (400 MHz, CDCl3) δ ppm 1.17 (d, J=6.60 Hz, 3H), 1.45 (br s, 1H), 2.07-2.24 (m, 1H), 2.27 (s, 3H), 2.29-2.37 (m, 1H), 2.71 (dt, J=16.13, 6.42 Hz, 1H), 3.01 (s, 3H), 4.79 (br s, 1H), 6.59-6.69 (m, 2H), 6.82-6.95 (m, 1H), 7.15 (t, J=7.70 Hz, 2H), 7.32 (br d, J=7.33 Hz, 2H), 7.65 (d, J=8.43 Hz, 2H), 7.84 (d, J=8.43 Hz, 2H). MS (ESI, pos. ion) m/z 436 [M+H]+.

reactant | rac-1-(6-bromo-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.067 mmol, 0.024 g | BrC=1C(=C2CCC(N(C2=CC1)C(C)=O)C)OC1=CC=CC=C1 | C18H18BrNO2
reactant | 4-(methylsulfonyl)phenylboronic acid | 0.100 mmol, 0.020 g | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | sodium bicarbonate | 0.200 mmol, 1.0 M, 0.200 mL | C([O-])(O)=O.[Na+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 6.7 μmol, 4.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-dioxane | 0.67 mL | O1CCOCC1 | C4H8O2
product | rac-1-(2-methyl-6-(4-(methylsulfonyl)phenyl)-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | CC1N(C2=CC=C(C(=C2CC1)OC1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C)C(C)=O | C25H25NO4S
